Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
epinephrine / fluconazole
 
Attending: ___
 
Chief Complaint:
Abnormal labs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with NAFLD, morbid
obesity, and GERD who presented to the ED at the recommendation
of her outpatient provider for evaluation/management of
hyperglycemia and elevated transaminases. 

She reports that in ___, she was treated for sinusitis and
bronchitis with antibiotics. She developed a vulvovaginal yeast
infection after receiving antibiotics that has been
persistent/recurrent for the last 5 months. Her OB/GYN, Dr.
___ her on suppressive treatment for ___
vulvovaginitis in ___ (fluconazole 150 mg every other day for
3 doses, then one tab weekly). He ordered Hgb A1c and
transaminases which resulted earlier this week and were all
markedly elevated. He advised she go to urgent care. There she
was found to have a serum glucose of 447. She received 2L IVF 
and
10 units regular insulin and was advised to go to the ED for
hyperglycemia by on-call Endocrinology. She was admitted to
Medicine for diabetic education including insulin 
administration.

Today she reports that lately she has actually been feeling
better than she had in a long time. She had been trying to lose
weight, and was able to lose 34-38 lbs. With the weight loss, 
she
feels like she has more energy and her back feels much better.
She had noticed a slightly dry mouth, but not excessively so. 
She
has been drinking more water as part of her weight loss 
strategy,
so she has been urinating more. No new headaches or changes in
vision. No CP, SOB, or palpitations. No nausea, vomiting,
abdominal pain, or diarrhea. No paresthesias or loss of
sensation. 

Her transaminases have been elevated in the past. She was
diagnosed with NAFLD by her gastroenterologist, Dr. ___.
Diabetes is a new diagnosis for her, although it does run in her
family.

ED course:
VS: T 97.9, HR 91, BP 112/83, RR 16, SpO2 97% on RA
Labs: Serum glucose 221, bicarb 23, AG 15, ALT 372, ALT 210, ALP
178
Imaging: RUQ US: Echogenic liver consistent with steatosis. 
Interventions: Insulin 3 units sq

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- GERD
- Morbid obesity
- Iron deficiency anemia
- Recurrent vulvovaginal candidiasis
- Shoulder impingement syndrome
- NAFLD
 
Social History:
___
Family History:
Father - ___, DM2, stroke, CAD/PVD
MGM - Cervical cancer
Mother - thyroid disorder
___ uncle - DM type ___
PGM - DM type ___

 
Physical Exam:
Admission physical exam
VITALS: T 97.8, HR 85, BP 122/81, RR 20, SpO2 95% on RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT:  Oropharynx without visible lesion, erythema or exudate
CV: Normal rate, regular rhythm, heart sounds distant, no
appreciable murmur.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
MSK: Moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge physical exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, obese abdomen, non-distended, non-tender to
palpation.  Bowel sounds present
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted, no spider angioma
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission labs
___ 08:35PM BLOOD WBC-7.4 RBC-4.94 Hgb-14.5 Hct-42.4 MCV-86 
MCH-29.4 MCHC-34.2 RDW-12.9 RDWSD-40.3 Plt ___
___ 08:35PM BLOOD Neuts-52.7 ___ Monos-5.8 Eos-4.7 
Baso-0.8 Im ___ AbsNeut-3.90 AbsLymp-2.64 AbsMono-0.43 
AbsEos-0.35 AbsBaso-0.06
___ 08:50AM BLOOD ___ PTT-28.0 ___
___ 08:35PM BLOOD Glucose-185* UreaN-11 Creat-0.7 Na-141 
K-3.7 Cl-103 HCO3-23 AnGap-15
___ 08:35PM BLOOD ALT-372* AST-210* AlkPhos-178* 
TotBili-0.3
___ 05:00AM BLOOD Triglyc-276* HDL-36* CHOL/HD-6.7 
LDLcalc-149*
___ 10:15AM BLOOD HIV Ab-NEG
___ 10:15AM BLOOD HCV Ab-NEG
___ 12:40AM BLOOD Glucose-221* Lactate-1.2

Discharge labs

___ 06:55AM BLOOD WBC-6.2 RBC-4.91 Hgb-14.6 Hct-42.1 MCV-86 
MCH-29.7 MCHC-34.7 RDW-13.0 RDWSD-40.3 Plt ___
___ 06:55AM BLOOD Glucose-189* UreaN-11 Creat-0.7 Na-141 
K-4.0 Cl-102 HCO3-25 AnGap-14
___ 06:55AM BLOOD ALT-608* AST-407* LD(LDH)-347* 
AlkPhos-162* TotBili-0.5
___ 06:55AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.0
___ 05:00AM BLOOD Triglyc-276* HDL-36* CHOL/HD-6.7 
LDLcalc-149*
___ 10:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:15AM BLOOD HIV Ab-NEG
___ 10:15AM BLOOD HCV Ab-NEG

Imaging:
___ liver ultrasound
IMPRESSION:  
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
2.  No focal hepatic mass on limited views. 
3.  Normal gallbladder. 
4.  No biliary ductal dilation. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with NAFLD, morbid obesity, 
and GERD who presented with hyperglycemia and elevated 
transaminases 

# Hyperglycemia
# Diabetes mellitus, new diagnosis: Hgb A1c was 12.7% with serum 
glucose level >400 in urgent care prior to admission. Per chart 
review A1c in Atrius ___ was 5.1. The patient reported she has 
never had an elevated Hgb A1c or elevated serum glucose on chem 
panels in the past. She had no evidence of DKA on admission. She 
was evaluated by ___ and discharged on glargine 20units, 
Humalog 3 units with each meal and ISS (1 unit for 150, 2 units 
for 200, 3 units for 250 etc). She ___ or endocrine 
referral by her PCP
___ avoided in the setting of transaminitis

# NAFLD
# Elevated transaminases
She has had chronically elevated transaminases since ___. They 
have generally been in the ___ range with a couple values in 
the ___. She had a very thorough work up at the time 
including negative hepatitis A, B, and C serologies, negative 
anti-mitrochrondial Ab, anti-smooth muscle Ab <20, high/normal 
alpha 1-antitrypsin, normal ceruloplasmin, LKM-1 Ab <1:20, and 
negative genetic workup for hereditary hemochromatosis. TSH and 
TTG were also wnl. She also had a normal liver ultrasound in 
___ but current ultrasound with evidence of steatosis. Likely 
the elevation in transaminases is iatrogenic due to chronic 
fluconazole (since ___ use in the setting 
of NAFLD. Evaluated by the liver team who felt the same. 
Discontinued fluconazole and placed on allergy list
We recommended Liver or GI outpatient follow up for management 
of NAFLD. Encouraged regular exercise, weight loss, improved 
control of diabetes

# Recurrent ___ vulvovaginitis 
Still having minor discharge on admission. Likely related to 
poorly controlled diabetes. Outpatient providers sent ___ repeat 
yeast culture to rule out ___ species other than albicans 
that would require alternate therapy and came back as ___ 
___. She will need to follow up as outpatient for treatment 
of this with likely boric acid

# GERD - continued home esomeprazole and ranitidine

TRANSITIONAL ISSUES
========================
- F/u with Gyn for treatment of ___
- F/u with endocrinology for management of diabetes
- Will need LFTs trended within ___ days of discharge
- Will need Liver follow up as outpatient for management of 
NAFLD

>30 minutes was spent on discharge planning and coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Esomeprazole 40 mg Other BID 
2. Ranitidine 300 mg PO QHS 

 
Discharge Medications:
1.  Glargine 20 Units Breakfast
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [OneTouch Ultra Test]  Use up to 3 
times a day for checking fingersticks  Disp #*90 Strip 
Refills:*0
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
20 Units before BKFT; Disp #*60 Syringe Refills:*0
RX *blood-glucose meter  Use upto 3 times day for checking 
fingersticks Use upto 3 times day for checking fingersticks Disp 
#*1 Kit Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 5 
Units QID per sliding scale 3 Units before LNCH; Units QID per 
sliding scale 3 Units before DINR; Units QID per sliding scale 
Disp #*90 Syringe Refills:*0 
2.  Esomeprazole 40 mg Other BID  
3.  Ranitidine 300 mg PO QHS  
4.Outpatient Lab Work
LFTs (ALT, AST, Alkphos, Tbili) on ___ and ___
send to: Name: ___, Location: ___ 
___ Address: ___  
Phone: ___ Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
Transaminitis
Type 2 diabetes
Vulva candidiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,

You were admitted due to elevated sugars and were found to have 
diabetes. You were also found to have elevated liver enzymes. As 
we discussed inpatient, you will need close follow up for your 
diabetes management and treatment. Please ensure healthy diet 
and exercise. Please ensure you are referred to a diabetes 
doctor by your PCP.

You will be going home on Glargine 20 units daily. Humalog 3 
units with every meal. You will also have a Humalog (short 
acting) sliding scale that you can use
1 unit if your sugar is above 150, 2 units if above 200, 3 units 
if above 250, 4 units if above 300, 5 units if above 350, 6 
units if above 400 (If above 400, also call your doctor 
immediately)

With respect to your liver enzymes. We felt this was most likely 
due medication induced hepatitis. This should self resolve with 
time but you will need close monitoring of your liver enzymes.

Your labwork at ___ also showed your yeast 
infection is ___ which is not affected by 
fluconazole. As we discussed please follow up with your doctors 
as outpatient for treatment of this despite 
improvement/stability of your symptoms.

It was a pleasure being part of your care.
Your ___ Team
 
Followup Instructions:
___